US06717016B2
(e) Synthesis of (+)-1-(2-fluorophenyl)-3-methylbutane-2-ol
Under a nitrogen atmosphere, 2.28 g (60.2 mmol) of lithium aluminum hydride was added to 30 ml of THF. A solution of 21.1 g (60.2 mmol) of 4-(2-fluorophenyl)-3-hydroxy-2-methylbutyl tosylate in 210 ml of THF was added dropwise thereto at room temperature. After stirring for 0.5 hr at room temperature, sodium sulfate 10 hydrate was added slowly until no effervescence was observed. After stirring a while, the obtained suspension was filtered, the filtrate was distilled off and the residue was purified by silica gel column chromatography to obtain 9.6 g of the title compound as a colorless solid. (Yield: 88%) An optical purity was determined to be 98.1% ee by GC using Chirasil DEX CB according to a conventional method.

reactant | lithium aluminum hydride | 60.2 mmol, 2.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-fluorophenyl)-3-hydroxy-2-methylbutyl tosylate | 60.2 mmol, 21.1 g | S(=O)(=O)(OCC(C(CC1=C(C=CC=C1)F)O)C)C1=CC=C(C)C=C1 | C18H21FO4S
reactant | sodium sulfate 10 hydrate | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 210 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (+)-1-(2-fluorophenyl)-3-methylbutane-2-ol | 9.6 g, Yield: 88% | FC1=C(C=CC=C1)CC(C(C)C)O | C11H15FO
